US09260427B2
To a solution of 2-(4-bromophenyl)-5-(4-(heptyloxy)phenyl)-1H-imidazole (370 g, 900 mmol) in DMF (4 ml) was added NaH (40 mg, 980 mmol). After 2 h, 2-(trimethylsilyl)ethoxymethyl chloride (160 g, 990 mmol) in THF (2 ml) was added dropwise and reaction mixture was stirred overnight. The reaction mixture was diluted with EA and washed with aq. NaHCO3. The organics were dried over MgSO4, filtered, and the solvent was removed under reduced pressure. The crude product was purified by chromatography (EA/hexane) to afford 32 mg (65%) of 2-(4-bromophenyl)-5-(4-(heptyloxy)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole as a tan solid. LCMS-ESI (m/z) calculated for C28H39BrN2O2Si: 542.2. found 543.3 [M+H]+, tR=3.35 min (Method 8).

reactant | 2-(4-bromophenyl)-5-(4-(heptyloxy)phenyl)-1H-imidazole | 900 mmol, 370 g | BrC1=CC=C(C=C1)C=1NC(=CN1)C1=CC=C(C=C1)OCCCCCCC | C22H25BrN2O
reactant | NaH | 980 mmol, 40 mg | [H-].[Na+]
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 990 mmol, 160 g | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-(4-bromophenyl)-5-(4-(heptyloxy)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole | 32 mg, 65% | BrC1=CC=C(C=C1)C=1N(C(=CN1)C1=CC=C(C=C1)OCCCCCCC)COCC[Si](C)(C)C | C28H39BrN2O2Si
